US06372759B1
C) N-(1-tert-butoxycarbonyl-6-indolyl)-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-4-(acetylamino)benzamide
Using the procedure described in Example 24, Part E, N-(1-tert-butoxycarbonyl-6-indolyl)-2-[1-(4-pyridyl)piperidin-4 ylcarbonylamino]-4-aminobenzamide (0.18 mmol) was reacted with acetyl chloride to yield 83 mg (77%) of the title compound as a white solid.

reactant | N-(1-tert-butoxycarbonyl-6-indolyl)-2-[1-(4-pyridyl)piperidin-4 ylcarbonylamino]-4-aminobenzamide | 0.18 mmol | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)NC(C1=C(C=C(C=C1)N)NC(=O)C1CCN(CC1)C1=CC=NC=C1)=O | C31H34N6O4
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-(1-tert-butoxycarbonyl-6-indolyl)-2-[1-(4-pyridyl)piperidin-4-ylcarbonylamino]-4-(acetylamino)benzamide | 83 mg, 77% | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)NC(C1=C(C=C(C=C1)NC(C)=O)NC(=O)C1CCN(CC1)C1=CC=NC=C1)=O | C33H36N6O5
